US05817654
A solution of 3,3-dichloro-4-oxo-2,3,4,5-tetrahydro-1H-naphtho- [2,1-b]azepine (28.0 g, 100 mmol) in glacial acetic acid (250 ml) was placed under an atmosphere of nitrogen. Sodium acetate (22.6 g, 275 mmol), sodium hypophosphite hydrate (24.6 g, 280 mmol) and palladium on carbon (10%, 1.5 g) were added. The reaction mixture was stirred at 56° C. for 20 h under an atmosphere of nitrogen. The mixture was allowed to cool to ambient temperature and then filtered. The solid was boiled with THF (3×700 ml) and filtered while still warm. The combined THF phases were evaporated in vacuo to give 19.1 g of 3-chloro-4-oxo-2,3,4,5-tetrahydro-1H-naphtho-[2,1-b]azepine.

reactant | 3,3-dichloro-4-oxo-2,3,4,5-tetrahydro-1H-naphtho- [2,1-b]azepine | 100 mmol, 28.0 g | ClC1(CCC2=C(NC1=O)C=CC1=CC=CC=C12)Cl | C14H11Cl2NO
reactant | Sodium acetate | 275 mmol, 22.6 g | C(C)(=O)[O-].[Na+]
reactant | sodium hypophosphite hydrate | 280 mmol, 24.6 g | O.[PH2](=O)[O-].[Na+]
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | 3-chloro-4-oxo-2,3,4,5-tetrahydro-1H-naphtho-[2,1-b]azepine | 19.1 g | ClC1CCC2=C(NC1=O)C=CC1=CC=CC=C12 | C14H12ClNO
